US04643849
With 15 ml of ethanol were mixed 3.0 g of N-cyano-N'-{2-[(2-guanidino-4-thiazolyl)methylthio]ethyl}-S-methylisothiourea, 4.9 g of DL-[2-hydroxy-2-(3-hydroxyphenyl)ethyl]amine and 1.97 g of silver nitrate, and the resulting mixture was subjected to reaction under reflux for 1.5 hours. After completion of the reaction, the insolubles were removed by filtration, and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by a column chromatography (Wako Silica Gel C-200, eluent; chloroform:methanol=5:1 by volume) and crystallized from methanol to obtain 2.5 g (yield 68%) of N-cyano-N'-{2-[(2-guanidino-4-thiazolyl)methylthio]ethyl}-N"-[2-hydroxy-2-(3-hydroxyphenyl)ethyl]guanidine having a melting point of 162°-164° C.

reactant | N-cyano-N'-{2-[(2-guanidino-4-thiazolyl)methylthio]ethyl}-S-methylisothiourea | 3.0 g | C(#N)NC(SC)=NCCSCC=1N=C(SC1)NC(=N)N | C10H15N7S3
reactant | DL-[2-hydroxy-2-(3-hydroxyphenyl)ethyl]amine | 4.9 g | C1=CC(=CC(=C1)O)C(CN)O | C8H11NO2
catalyst | silver nitrate | 1.97 g | [N+](=O)([O-])[O-].[Ag+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-cyano-N'-{2-[(2-guanidino-4-thiazolyl)methylthio]ethyl}-N"-[2-hydroxy-2-(3-hydroxyphenyl)ethyl]guanidine | 2.5 g, yield 68% | C(#N)NC(=NCC(C1=CC(=CC=C1)O)O)NCCSCC=1N=C(SC1)NC(=N)N | C17H22N8O2S2
